US09034866B2
To a solution of 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (80 mg, 0.23 mmol) in MeOH (5 mL) at 0° C., NaBH4 (9 mg, 0.23 mmol) was added. The mixture was allowed to warm to room temperature, and stirred for 2 h, then water (2 mL) was added. The mixture was extracted with EtOAc (10 mL×3) and the combined organic layers were washed with brine, dried over Na2SO4, concentrated and purified by flash column chromatography (silica gel, EtOAc in hexane from 0 to 50%) to give 4-Hydroxy-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide as a white solid (29 mg, 36%). 1H NMR (400 MHz, DMSO-d6): 8.57 (d, J=2.1 Hz, 1H), 8.48 (s, 1H), 7.91 (s, 1H), 7.31 (dd, J1=8.3 Hz, J2=2.2 Hz, 1H), 7.07 (d, J=8.4 Hz, 1H), 6.38 (d, J=7.2 Hz, 1H), 5.45 (s, 1H), 5.09-5.14 (m, 1H), 4.08-4.35 (m, 2H), 1.49 (s, 6H); LC-MS (ESI & APCI): 345.3 (M+1).

reactant | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 0.23 mmol, 80 mg | OC(C#CC=1C=CC2=C(C=3N=C(SC3C(CO2)=O)C(=O)N)C1)(C)C | C17H14N2O4S
reactant | NaBH4 | 0.23 mmol, 9 mg | [BH4-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Hydroxy-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 29 mg, 36% | OC1COC2=C(C=3N=C(SC13)C(=O)N)C=C(C=C2)C#CC(C)(C)O | C17H16N2O4S
